US07902394B2
(b) Ethyl 3-(3,4-difluoro-5-hydroxyphenyl)propanoate
A 2 L Parr hydrogenation flask was charged with ethyl (2E)-3-(3,4-difluoro-5-hydroxyphenyl)-2-propenoate (91.1 g) and 750 mL of absolute ethanol. The solution was deoxygenated by bubbling nitrogen for 15 minutes. To this was added 10.15 g of catalyst (5% Pd/C—wet) and placed under hydrogen atmosphere (55 psi). After 21 h of stirring, starting material was still present so the reaction was filtered, washed with methanol and DCM and concentrated. The residue was diluted with 550 mL of absolute ethanol and deoxygenated by bubbling nitrogen for 30 minutes. An additional 9.32 g of 10% Pd/C (dry) was added and the reaction placed under hydrogen atmosphere (60 psi) for another 22 h. The reaction was still not complete. The reaction was then filtered as above and the residue was dissolved in 450 mL of ethanol and an additional 10 g of 10% Pd/C (dry) was added and the reaction placed under hydrogen atmosphere (60 psi) for another 20 h. The reaction was then filtered though a pad of Celite and washed with CH3OH and CH2Cl2 and concentrated to get the desired product (86.9 g) in 95% yield.

reactant | ethyl (2E)-3-(3,4-difluoro-5-hydroxyphenyl)-2-propenoate | 91.1 g | FC=1C=C(C=C(C1F)O)/C=C/C(=O)OCC | C11H10F2O3
solvent | ethanol | 750 mL | C(C)O | C2H6O
product | Ethyl 3-(3,4-difluoro-5-hydroxyphenyl)propanoate | 86.9 g, 95% yield | FC=1C=C(C=C(C1F)O)CCC(=O)OCC | C11H12F2O3
